US04225711
Add 2 ml of concentrated hydrochloric acid to 6-bromo-5-chloro-2[(methylsulfinyl)acetyl]-3-(2-pyridyl)indole (5.0 g) in 50 ml of methanol and 50 ml of tetrahydrofuran, warm the mixture to 60° for 2 hours. Cool, add water and the resulting solid is collected and dried to obtain 6-bromo-5-chloro-2[(methylthio)(methoxy)acetyl]-3-(2-pyridyl)indole.

reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | 6-bromo-5-chloro-2[(methylsulfinyl)acetyl]-3-(2-pyridyl)indole | 5.0 g | BrC1=C(C=C2C(=C(NC2=C1)C(CS(=O)C)=O)C1=NC=CC=C1)Cl | C16H12BrClN2O2S
reactant | water | O | H2O
reactant | methanol | 50 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6-bromo-5-chloro-2[(methylthio)(methoxy)acetyl]-3-(2-pyridyl)indole | BrC1=C(C=C2C(=C(NC2=C1)C(C(OC)SC)=O)C1=NC=CC=C1)Cl | C17H14BrClN2O2S
